US05538976
5-[N-(4-Cyanophenyl)-N-(2,5-difluorophenyl)amino]pyrimidine
Starting compounds: 5-[N-(4-cyanophenyl)amino]pyrimidine and 2,5-difluorobenzyl bromide

reactant | 5-[N-(4-cyanophenyl)amino]pyrimidine | C(#N)C1=CC=C(C=C1)NC=1C=NC=NC1 | C11H8N4
reactant | 2,5-difluorobenzyl bromide | FC1=C(CBr)C=C(C=C1)F | C7H5BrF2
product | 5-[N-(4-Cyanophenyl)-N-(2,5-difluorophenyl)amino]pyrimidine | C(#N)C1=CC=C(C=C1)N(C1=C(C=CC(=C1)F)F)C=1C=NC=NC1 | C17H10F2N4
